US04173639
2-(2,2,2-Trifluoroethoxy)-5-Nitropyridine
2-Chloro-5-nitropyridine (9.5 grams), 2,2,2-trifluoroethanol (6.0 grams), and lithium hydroxide (4.0 grams) were mixed in 50 ml. of DMSO and stirred overnight (about 18 hours) at room temperature. The reaction mixture was then poured into water and the product was separated by filtration. It was crystallized from ethyl acetate-hexanes, yield 5.0 grams, m.p., 35°-37° C.

reactant | 2-Chloro-5-nitropyridine | 9.5 grams | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 2,2,2-trifluoroethanol | 6.0 grams | FC(CO)(F)F | C2H3F3O
reactant | lithium hydroxide | 4.0 grams | [OH-].[Li+]
reactant | DMSO | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(2,2,2-Trifluoroethoxy)-5-Nitropyridine | FC(COC1=NC=C(C=C1)[N+](=O)[O-])(F)F | C7H5F3N2O3
